US08957205B2
2-[4-[(Dimethylamino)methyl]phenyl]-3-oxa-1-azaspiro[4.5]dec-1-en-4-one
0.7 ml of 2N aqueous sodium hydroxide solution was added to a solution of 100 mg (0.25 mmol) of 1-[[[4-[(dimethylamino)methyl]phenyl]carbonyl]amino]cyclohexanecarboxylic acid phenylmethyl ester in 1 ml of tetrahydrofuran, and the mixture was refluxed under heating overnight. After the mixture was neutralized by concentrated hydrochloric acid, the reaction mixture was distilled off under reduced pressure. 3 ml of methylene chloride, 126 mg (1.25 mmol) of triethylamine and 96 mg (0.5 mmol) 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride were added to the residue, the mixture was stirred for 1 hour. The reaction mixture was distilled off under reduced pressure, an aqueous sodium bicarbonate solution was added thereto, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium bicarbonate solution and dried with anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to obtain 52 mg (68%) of the title compound.

reactant | sodium hydroxide | 2N, 0.7 ml | [OH-].[Na+]
reactant | 1-[[[4-[(dimethylamino)methyl]phenyl]carbonyl]amino]cyclohexanecarboxylic acid phenylmethyl ester | 0.25 mmol, 100 mg | C1(=CC=CC=C1)COC(=O)C1(CCCCC1)NC(=O)C1=CC=C(C=C1)CN(C)C | C24H30N2O3
reactant | hydrochloric acid | Cl | ClH
reactant | triethylamine | 1.25 mmol, 126 mg | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.5 mmol, 96 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 2-[4-[(Dimethylamino)methyl]phenyl]-3-oxa-1-azaspiro[4.5]dec-1-en-4-one | 52 mg, 68% | CN(C)CC1=CC=C(C=C1)C1=NC2(C(O1)=O)CCCCC2 | C17H22N2O2
